US07538121B2
Ethyl 6-(4-fluorophenyl)-2-(bromomethyl)nicotinate
Ethyl 6-(4-fluorophenyl)-2-methylnicotinate (82 mg, 0.32 mmol), N-bromosuccinimide (67 mg, 0.38 mmol) and AIBN (5 mg, 0.032 mmol) in carbon tetrachloride (7 ml) were irradiated (150W lamp) for 6 h then cooled to room temperature. The solid was filtered off and the filtrate concentated and purified by SPE chromatography to give the title compound (38 mg) as a 5:1 mixture with the dibrominated product. 1H NMR (250 MHz, CDCl3) δ (ppm): 8.32 (d, 1H), 8.11 (dd, 2H), 7.68 (d, 1H), 7.15 (t, 2H), 5.09 (s, 2H), 4.45 (q, 2H), 1.45 (t, 3H).

reactant | Ethyl 6-(4-fluorophenyl)-2-methylnicotinate | 0.32 mmol, 82 mg | FC1=CC=C(C=C1)C1=NC(=C(C(=O)OCC)C=C1)C | C15H14FNO2
reactant | N-bromosuccinimide | 0.38 mmol, 67 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.032 mmol, 5 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 6-(4-fluorophenyl)-2-(bromomethyl)nicotinate | 38 mg | FC1=CC=C(C=C1)C1=NC(=C(C(=O)OCC)C=C1)CBr | C15H13BrFNO2
